US04328234
Powdered 3-hydroxy-3-methoxycarbonyl-1-azabicyclo[2.2.2]octane (16.0 g, 0.086 mol) was added protionwise to thionyl chloride (100 ml) at 0°. Following the addition, the reaction mixture was stirred and heated under reflux for 48 h. The thionyl chloride was then removed under reduced pressure to afford a solid, which was recrystallised from acetone, giving 3-methoxycarbonyl-1-azabicyclo[2.2.2]oct-2-ene hydrochloride, m.p. 178°-179°.

reactant | 3-hydroxy-3-methoxycarbonyl-1-azabicyclo[2.2.2]octane | 0.086 mol, 16.0 g | OC1(CN2CCC1CC2)C(=O)OC | C9H15NO3
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-methoxycarbonyl-1-azabicyclo[2.2.2]oct-2-ene hydrochloride | Cl.COC(=O)C1=CN2CCC1CC2 | InChI=1S/C9H13NO2.ClH/c1-12-9(11)8-6-10-4-2-7(8)3-5-10;/h6-7H,2-5H2,1H3;1H
